US05204326
Preparation of Boc-Thr(Bzl)-Pro-OBzl
By using 8.66 g of Boc-Thr(Bzl)-OH and 7.42 g of HCl.H-Pro-OBzl, and the same procedure as in Reference Example 15 was repeated to obtain 13.25 g (yield: 95.3%) of the above mentioned objective product.

reactant | Boc-Thr(Bzl)-OH | 8.66 g | N([C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)O)C(=O)OC(C)(C)C | C16H23NO5
reactant | HCl | 7.42 g | Cl | ClH
reactant | H-Pro-OBzl | N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1 | C12H15NO2
product | Boc-Thr(Bzl)-Pro-OBzl | yield: 95.3% | N([C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C28H36N2O6
